US08486979B2
5-(5-(pyrrol-1-yl)pyridin-3-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
To a solution of 5-(1H-pyrrol-1-yl)nicotinic acid (Maybridge, 188 mg, 1.00 mmol) in dimethylformamide (anhydrous, 5 mL) was added N-(3-methylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC) (Aldrich, 192 mg, 1.00 mmol) and 1-hydroxybenzotriazole (HOBT) hydrate (Fluka, 153 mg, 1.00 mmol). The mixture was stirred at ambient temperature for 20 minutes. N′-Hydroxynicotinimidamide (137 mg, 1.0 mmol) was added and the mixture was stirred for 6-10 hours, and then warmed to 140° C. for 2-4 hours. The reaction was cooled to ambient temperature and triturated with water (10 mL). The precipitate was filtered and dried under vacuum to give the titled compound. 1H NMR (300 MHz, DMSO-d6) δ 6.34-6.44 (m, 2 H), 7.60-7.82 (m, 3 H), 8.50 (dt, J=8.1, 1.9 Hz, 1H), 8.71 (dd, J=2.5, 1.9 Hz, 1 H), 8.84 (dd, J=4.6, 1.5 Hz, 1 H), 9.21 (d, J=1.7 Hz, 1 H), 9.26 (d, J=2.4 Hz, 1 H), 9.31 (d, J=1.7 Hz, 1 H) ppm; MS (DCI/NH3) m/z 290 (M+H)+.

reactant | 5-(1H-pyrrol-1-yl)nicotinic acid | 1.00 mmol, 188 mg | N1(C=CC=C1)C=1C=NC=C(C(=O)O)C1 | C10H8N2O2
reactant | N-(3-methylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.00 mmol, 192 mg | Cl.CNCCCN=C=NCC
reactant | 1-hydroxybenzotriazole | 1.00 mmol, 153 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N′-Hydroxynicotinimidamide | 1.0 mmol, 137 mg | ON=C(C1=CN=CC=C1)N | C6H7N3O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-(5-(pyrrol-1-yl)pyridin-3-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | N1(C=CC=C1)C=1C=C(C=NC1)C1=NC(=NO1)C=1C=NC=CC1 | C16H11N5O
